US04299769
As for Example 29, 3-(1-methyl-3-indolylcarbonyl)acrylic acid is coupled to L-proline to give 1-[3-(1-methyl-3-indolylcarbonyl)acryloyl]-L-proline.

reactant | 3-(1-methyl-3-indolylcarbonyl)acrylic acid | CN1C=C(C2=CC=CC=C12)C(=O)C=CC(=O)O | C13H11NO3
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
product | 1-[3-(1-methyl-3-indolylcarbonyl)acryloyl]-L-proline | CN1C=C(C2=CC=CC=C12)C(=O)C=CC(=O)N1[C@H](C(=O)O)CCC1 | C18H18N2O4
